US08541575B2
5-(2,6-Difluoro-3-nitrophenyl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazole
To a solution of tetrakis(triphenylphosphine)palladium(0) (1.2 g, 1.04 mmol) in dimethoxyethane (30 mL), 2-bromo-1,3-difluoro-4-nitrobenzene (2.38 g, 10 mmol) in dimethoxyethane (20 mL) was added and the mixture was insufflated with nitrogen for 10 min. To the solution, 1-(tetrahydro-2H-pyran-2-yl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole (4 g, 15 mmol) in dimethoxyethane (30 mL) was added and the mixture was insufflated with nitrogen for 2 min, then 2 M sodium carbonate solution (40 mL) was added and the mixture was refluxed for 4 h. The mixture was cooled and the organic phase was concentrated to oil. By addition of diethyl ether a precipitate was obtained, filtered off and discarded. The filtrate was concentrated and purified by flash chromatography (eluant: dichloromethane/ethyl acetate 20:1). The title compound was obtained as oil (1.27 g, 40%).

reactant | 2-bromo-1,3-difluoro-4-nitrobenzene | 10 mmol, 2.38 g | BrC1=C(C=CC(=C1F)[N+](=O)[O-])F | C6H2BrF2NO2
reactant | 1-(tetrahydro-2H-pyran-2-yl)-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazole | 15 mmol, 4 g | O1C(CCCC1)N1N=CC=C1B1OC(C(O1)(C)C)(C)C | C14H23BN2O3
reactant | sodium carbonate | 2 M, 40 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | dimethoxyethane | 30 mL | C(OC)COC | C4H10O2
solvent | dimethoxyethane | 20 mL | C(OC)COC | C4H10O2
solvent | dimethoxyethane | 30 mL | C(OC)COC | C4H10O2
catalyst | tetrakis(triphenylphosphine)palladium(0) | 1.04 mmol, 1.2 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | 5-(2,6-Difluoro-3-nitrophenyl)-1-(tetrahydro-2H-pyran-2-yl)-1H-pyrazole | FC1=C(C(=CC=C1[N+](=O)[O-])F)C1=CC=NN1C1OCCCC1 | C14H13F2N3O3
